US06586421B2
(5aS*,10bS*)-2-(9,10-dichloro-2,3,4,5,5a,10b-hexahydroazepino[4,5-b]indol-6(1H)-yl)-N-(2,3-dimethylphenyl)acetamide Hydrochloride
TFA (0.60 mL, 7.7 mmol) was added to a solution of tert-butyl (5aS*,10bS*)-9,10-dichloro-6-{ 2-[(2,3-dimethylphenyl)amino]-2-oxoethyl } -1,4,5,5a,6,10b-hexahydroazepino[4,5-b]indole-3(2H)-carboxylate (0.20 g, 0.39 mmol) in CH2Cl2 (7 mL). The reaction was quenched with 10% aqueous NaOH (5 mL) after 2.5 h and extracted with CH2Cl2 (3×25 mL). The combined organic layers were washed with brine, dried over Na2SO4, decanted, and concentrated. The crude yellow foam (0.15 g) was purified via column chromatography (Biotage, 40S) with CH2Cl2/MeOH/NH4OH (976:21:3) followed by the preparation of the hydrochloride salt to give 67 mg (38%) of an off white solid: mp 238.5-241.0° C.; 1H NMR (DMSO, 300 MHz) δ 9.60 (s, 1H), 8.92 (br s, 2H), 7.30 (d, J=8.4 Hz, 1H), 7.13 (m, 1H), 7.03 (m, 2H), 6.54 (d, J=8.7 Hz, 1H), 4.24 (m, 1H), 4.16 (d, J=17.1 Hz, 1H), 3.87 (d, J=17.1 Hz, 1H), 3.71 (m, 1H), 3.35 (m, 2H), 3.08 (m, 3H), 2.34 (m, 1H), 2.24 (m, 3H), 2.12 (m, 5H); IR (diffuse reflectance) 2969, 2955, 2938, 2823, 2796, 2772, 2755, 2727, 1676, 1527, 1464, 1285, 1274, 806, 787 cm−1; MS (EI) m/z 417 (M+), 419, 226, 120, 106, 105, 91, 77, 76, 56; HRMS (FAB) calcd for C22H25CL2N3O+H 418.1453, found 418.1439.

reactant | TFA | 7.7 mmol, 0.60 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | tert-butyl (5aS*,10bS*)-9,10-dichloro-6-{ 2-[(2,3-dimethylphenyl)amino]-2-oxoethyl } -1,4,5,5a,6,10b-hexahydroazepino[4,5-b]indole-3(2H)-carboxylate | 0.39 mmol, 0.20 g | ClC1=C(C=2[C@H]3[C@@H](N(C2C=C1)CC(=O)NC1=C(C(=CC=C1)C)C)CCN(CC3)C(=O)OC(C)(C)C)Cl | C27H33Cl2N3O3
solvent | CH2Cl2 | 7 mL | C(Cl)Cl | CH2Cl2
product | (5aS*,10bS*)-2-(9,10-dichloro-2,3,4,5,5a,10b-hexahydroazepino[4,5-b]indol-6(1H)-yl)-N-(2,3-dimethylphenyl)acetamide Hydrochloride | Cl.ClC1=C(C=2[C@H]3[C@@H](N(C2C=C1)CC(=O)NC1=C(C(=CC=C1)C)C)CCNCC3)Cl | InChI=1S/C22H25Cl2N3O.ClH/c1-13-4-3-5-17(14(13)2)26-20(28)12-27-18-9-11-25-10-8-15(18)21-19(27)7-6-16(23)22(21)24;/h3-7,15,18,25H,8-12H2,1-2H3,(H,26,28);1H/t15-,18+;/m1./s1
